US08053447B2
To a solution of benzyl 4-hydroxybenzoate (50 g, 0.22 mol) and triphenylphosphine (63.2 g, 0.241 mol) dissolved in THF (800 mL) was added 4-hydroxy-cyclohexanecarboxylic acid ethyl ester (35.3 mL, 0.22 mol). The reaction mixture was cooled on an ice bath and DEAD (38 ml, 0.241 mol) was added dropwise maintaining the temperature at 0° C. The resulting mixture was allowed slowly to reach room temperature and stirred for 16 hrs. at this temperature. The volume was reduced to app. 250 mL by evaporation and to the resulting mixture was added water (500 mL) followed by extraction with DCM (3×400 mL). The combined organic phases were washed with brine (400 mL), dried (Na2SO4), filtered and the volatiles evaporated in vacuo. Crude product ˜80 g was purified on column chromatography (Flash 75) using first heptane (7.5 L) followed by a mixture of EtOAc-heptane (1:10) (5 L) and finally a mixture of EtOAc-heptane (1:6) (8 L). Combined fractions were evaporated in vacuo affording 18.1 g (22%) of 4-(4-ethoxycarbonyl-cyclohexyloxy)-benzoic acid benzyl ester as an oil.

reactant | benzyl 4-hydroxybenzoate | 0.22 mol, 50 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | triphenylphosphine | 0.241 mol, 63.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxy-cyclohexanecarboxylic acid ethyl ester | 0.22 mol, 35.3 mL | C(C)OC(=O)C1CCC(CC1)O | C9H16O3
reactant | DEAD | 0.241 mol, 38 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | 4-(4-ethoxycarbonyl-cyclohexyloxy)-benzoic acid benzyl ester | 18.1 g, 22% | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)OC1CCC(CC1)C(=O)OCC)=O | C23H26O5
